US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dichloro-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared from 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane and 6,7-dichloro-2-methylamino-1,2,3,4-tetrahydronaphthalene analogously to Example 1. Mp.: 130° C.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 6,7-dichloro-2-methylamino-1,2,3,4-tetrahydronaphthalene | ClC=1C=C2CCC(CC2=CC1Cl)NC | C11H13Cl2N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dichloro-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)Cl)Cl)C)=O)C=C1OC | C26H32Cl2N2O3
